US05414140
Preparation of C7F15CHO
Catalyst 10% Pd/C(200 mg) was placed in a 3-necked round bottom flask and cooled at 0° C. Triisopropylsilane (3.32 g, 21 mmol) was added, followed by perflurooctanoyl chloride (7.9 g, 18.2 mmol). The mixture was allowed to warm to room temperature and was then controlled at 25°-27° C. during the exothermic reaction. After 3 hr, GC analysis showed aldehyde/acid chloride ratio=94/6. Another 0.26 mL of silane was added and stirring was continued for 1 hr. Vacuum transfer gave liquid which was chilled at -25° C. The resulting solid was shaken with petroleum ether, chilled at -25° C., and separated again. In this way, 6.48 g of product was obtained, mp ca. -5° C. NMR spectra were as described in Example 1.

reactant | Triisopropylsilane | 21 mmol, 3.32 g | C(C)(C)[SiH](C(C)C)C(C)C | C9H22Si
reactant | perflurooctanoyl chloride | 18.2 mmol, 7.9 g | FC(C(=O)Cl)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8ClF15O
reactant | silane | 0.26 mL | [SiH4] | H4Si
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | C7F15CHO | 6.48 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C=O | C8HF15O
